US09120752B2
To a suspension of methyl 6-(4-(4-fluorophenoxy)phenyl)-4-vinylpicolinate (0.309 g, 0.884 mmol) in 10 mL 1:1 iPrOH/H2O was added AD-Mix α (1.205 g). The reaction was stirred for 3 h then partitioned between 50 mL EtOAc and 25 mL water. The organics were separated, dried over MgSO4, filtered, and concentrated in vacuo to give crude (S)-methyl 4-(1,2-dihydroxyethyl)-6-(4-(4-fluorophenoxy)phenyl)picolinate which was used in the next step without further purification (LC/MS: m/z=384.1 [M+H]+).

reactant | methyl 6-(4-(4-fluorophenoxy)phenyl)-4-vinylpicolinate | 0.884 mmol, 0.309 g | FC1=CC=C(OC2=CC=C(C=C2)C2=CC(=CC(=N2)C(=O)OC)C=C)C=C1 | C21H16FNO3
reactant | iPrOH H2O | CC(C)O.O
product | (S)-methyl 4-(1,2-dihydroxyethyl)-6-(4-(4-fluorophenoxy)phenyl)picolinate | O[C@H](CO)C1=CC(=NC(=C1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)OC | C21H18FNO5
